.subckt BB5V 1 2 3 4
* vin gnd vout gnd
VOUT 3 4 5V
.ends BB5V

.subckt BB12V 1 2 3 4
* vin gnd vout gnd
VOUT 3 4 12V
.ends BB12V

.subckt BB19V 1 2 3 4
* vin gnd vout gnd
VOUT 3 4 19V
.ends BB19V

